US05157026
2-propyl-3-(2'-(N-triphenylmethyltetrazol-5-yl)-biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine was prepared according to the procedure described in Example 7, Part A from 2-propylimidazo[4,5-b]pyridine (19 mg, 0.118 mmol), N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole (60 mg, 0.108 mmol), and NaH (0.236 mmol).

reactant | 2-propylimidazo[4,5-b]pyridine | 0.118 mmol, 19 mg | C(CC)C=1NC=2C(=NC=CC2)N1 | C9H11N3
reactant | N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole | 0.108 mmol, 60 mg | C1(=CC=CC=C1)C(N1N=NN=C1C1=CC=CC=C1C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | NaH | 0.236 mmol | [H-].[Na+]
product | 2-propyl-3-(2'-(N-triphenylmethyltetrazol-5-yl)-biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | C(CC)C1=NC=2C(=NC=CC2)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H35N7
